US05804686
A solution of p-nitrobenzylbromide (5.40 g, 25 mmol) in acetonitrile (60 ml) is added dropwise to a stirred solution of aqueous methylamine (65 mL, 40 wt. %, 0.75 mol) in acetonitrile (50 mL) at 0°. After stirring an additional 15 minutes, the solution is poured into brine and extracted 2× with dichloromethane. The combined organic layers are washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give 4-(methylaminomethyl)nitrobenzene (4.04 g).

reactant | p-nitrobenzylbromide | 25 mmol, 5.40 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | methylamine | 0.75 mol, 65 mL | CN | CH5N
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
product | 4-(methylaminomethyl)nitrobenzene | 4.04 g | CNCC1=CC=C(C=C1)[N+](=O)[O-] | C8H10N2O2
